US07572809B2
d) Preparation of 6-Methoxy-3-oxo-indan-5-carboxylic acid dimethylamide
To a solution of Dimethylamine hydrochloride (2.22 g, 27.24 mmol) and triethylamine (7 ml, 54.48 mmol) in CH2Cl2 (30 ml) was added 6-Methoxy-3-oxo-indan-5-carboxylic acid (2 g, 9.08 mmol), HOBt (2.45 g, 18.18 mmol), EDCI (3.48 g, 18.18 mmol) at 0° C. in order. The mixture was stirred at room temperature for 3 hrs and washed with 8% NaOH, water and brine. The organic layer was dried over anhydrous sodium sulfate and concentrated to give the product (1.69 g, 80% yield). LC-MS: m/e 234 (MH+)

reactant | Dimethylamine hydrochloride | 27.24 mmol, 2.22 g | Cl.CNC
reactant | triethylamine | 54.48 mmol, 7 ml | C(C)N(CC)CC | C6H15N
reactant | 6-Methoxy-3-oxo-indan-5-carboxylic acid | 9.08 mmol, 2 g | COC1=C(C=C2C(CCC2=C1)=O)C(=O)O | C11H10O4
reactant | HOBt | 18.18 mmol, 2.45 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 18.18 mmol, 3.48 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 6-Methoxy-3-oxo-indan-5-carboxylic acid dimethylamide | 1.69 g, 80% yield | CN(C(=O)C=1C=C2C(CCC2=CC1OC)=O)C | C13H15NO3
